US09061999B2
N-(2-chloro-5-(2-morpholinoethoxy)phenyl)cinnamamide (800 mg, 2.1 mmol, 1 eq.) was placed in chlorobenzene (1.9 mL), in the presence of aluminium trichloride (1.6 g, 12.4 mmol, 6 eq.). The reaction mixture was heated at 125° C. and stirred for 2 hours. After cooling down to room temperature, it was diluted with a water and ice mixture and extracted with ethyl acetate. The organic phase was dried over MgSO4, filtered and concentrated under reduced pressure. The resulting residue was purified by column chromatography on silica gel to afford 8-chloro-5-(2-morpholinoethoxy)quinolin-2(1H)-one (220 mg, 34%).

reactant | N-(2-chloro-5-(2-morpholinoethoxy)phenyl)cinnamamide | 2.1 mmol, 800 mg, 1 eq. | ClC1=C(C=C(C=C1)OCCN1CCOCC1)NC(C=CC1=CC=CC=C1)=O | C21H23ClN2O3
reactant | aluminium trichloride | 12.4 mmol, 1.6 g, 6 eq. | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | chlorobenzene | 1.9 mL | ClC1=CC=CC=C1 | C6H5Cl
solvent | water | O | H2O
product | 8-chloro-5-(2-morpholinoethoxy)quinolin-2(1H)-one | 220 mg, 34% | ClC=1C=CC(=C2C=CC(NC12)=O)OCCN1CCOCC1 | C15H17ClN2O3
